US06306860B1
Preparation of 6-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester
5-(Methoxycarbonyl)-2-pyridinecarboxylic acid (20 g) was added in methylene chloride (200 ml), and then, dissolved with the addition of triethylamine (17 ml). The mixture was cooled, pivaloyl chloride (14.5 ml) was added at 0° C.˜5° C. and stirred at 5° C. for 2 hours. 1-(3-Nitro-2-pyridyl)piperazine (23 g) and triethylamine (18 ml) were added to the solution in order and the mixture was reacted at 5° C.˜10° C. for 2 hours. The reaction mixture was washed with aqueous sodium bicarbonate and water each twice and then, the separated organic layer was concentrated under reduced pressure. The concentrated residue was treated with ethanol for crystallization and water was added, then the precipitate was filtered. The crude product was recrystallized with ethanol and ether, filtered and dried to give a desired compound of 35.3 g (yield: 86%).

reactant | 5-(Methoxycarbonyl)-2-pyridinecarboxylic acid | 20 g | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | triethylamine | 17 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 14.5 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 1-(3-Nitro-2-pyridyl)piperazine | 23 g | [N+](=O)([O-])C=1C(=NC=CC1)N1CCNCC1 | C9H12N4O2
reactant | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester | yield: 86% | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-])=O | C17H17N5O5
